* P:\Analoges Neuronales Netzwerk\V4\V4\V4.2\LT-Spice\V4.2 Test.asc
V1 +15V 0 15
V2 0 -15V 15
R1 N010 1 10k
R2 N011 N010 10k
XU1 0 N010 +15V -15V N011 LT1001
R3 N008 N011 7617
R4 1 N008 42382
R5 N009 N008 12.5k
XU2 0 N008 +15V -15V N009 LT1001
R6 N022 2 10k
R7 N023 N022 10k
XU3 0 N022 +15V -15V N023 LT1001
R8 N020 N023 42382
R9 2 N020 7617
R10 N021 N020 12.5k
XU4 0 N020 +15V -15V N021 LT1001
R23 N005 N021 10k
R24 N005 N009 10k
R25 N004 -15V 26367
R26 +15V N004 23632
XU9 N004 N001 +15V -15V N001 LT1001
R27 N005 N001 10k
XU10 0 N005 +15V -15V N006 LT1001
R28 N006 N005 10k
R29 N002 N006 39k
XU11 0 N002 +15V -15V N003 LT1001
D1 N003 N002 D
D2 N002 N003 D
R30 N003 N002 18k
R11 N041 1 10k
R12 N042 N041 10k
XU5 0 N041 +15V -15V N042 LT1001
R13 N039 N042 42382
R14 1 N039 7617
R15 N040 N039 12.5k
XU6 0 N039 +15V -15V N040 LT1001
R16 N045 2 10k
R17 N046 N045 10k
XU7 0 N045 +15V -15V N046 LT1001
R18 N043 N046 7813
R19 2 N043 42186
R20 N044 N043 12.5k
XU8 0 N043 +15V -15V N044 LT1001
R21 N036 N044 10k
R22 N036 N040 10k
R47 N035 -15V 26367
R48 +15V N035 23632
XU19 N035 N028 +15V -15V N028 LT1001
R49 N036 N028 10k
XU20 0 N036 +15V -15V N037 LT1001
R50 N037 N036 10k
R51 N029 N037 39k
XU21 0 N029 +15V -15V N030 LT1001
D5 N030 N029 D
D6 N029 N030 D
R52 N030 N029 18k
R81 N026 3 10k
R82 N027 N026 10k
XU33 0 N026 +15V -15V N027 LT1001
R83 N024 N027 46875
R84 3 N024 3124
R85 N025 N024 12.5k
XU34 0 N024 +15V -15V N025 LT1001
R86 N033 4 10k
R87 N034 N033 10k
XU35 0 N033 +15V -15V N034 LT1001
R88 N031 N034 46875
R89 4 N031 3124
R90 N032 N031 12.5k
XU36 0 N031 +15V -15V N032 LT1001
R91 N016 N032 10k
R92 N016 N025 10k
R93 N015 -15V 20702
R94 +15V N015 29297
XU37 N015 N012 +15V -15V N012 LT1001
R95 N016 N012 10k
XU38 0 N016 +15V -15V N017 LT1001
R96 N017 N016 10k
R97 N013 N017 39k
XU39 0 N013 +15V -15V N014 LT1001
D9 N014 N013 D
D10 N013 N014 D
R98 N014 N013 18k
V3 1 0 1
V4 2 0 -1
XU13 0 N007 +15V -15V 3 LT1001
R33 3 N007 16k
R34 N007 N003 10k
XU14 0 N038 +15V -15V 4 LT1001
R35 4 N038 16k
R36 N038 N030 10k
XU12 0 N018 +15V -15V N019 LT1001
R31 N019 N018 16k
R32 N018 N014 10k
.model D D
.lib C:\Users\m.stellmacher\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1
.lib LTC.lib
.backanno
.end
